US07935815B2
Synthesis of 1-aminopiperidin-2-one hydrochloride
tert-Butyl (2-oxopiperidin-1-yl)carbamate (129 mg) was dissolved in a solution of 4 N hydrogen chloride in dioxane (2 ml), and the reaction solution was stirred at room temperature for one hour. The reaction solution was concentrated under reduced pressure to obtain 92 mg of the title compound. The property values of the compound are as follows.

reactant | tert-Butyl (2-oxopiperidin-1-yl)carbamate | 129 mg | O=C1N(CCCC1)NC(OC(C)(C)C)=O | C10H18N2O3
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 1-aminopiperidin-2-one hydrochloride | 92 mg | Cl.NN1C(CCCC1)=O | InChI=1S/C5H10N2O.ClH/c6-7-4-2-1-3-5(7)8;/h1-4,6H2;1H
